US06140349
Step G: N-(4-(4-(N-(Benzyloxycarbonyl)allylamino)piperidin-1-yl)-2-(hydroxymethyl)-2-phenylbutyl)-N-methylbenzene-sulfonamide hydrochloride
Trifluoroacetic acid (1.5 mL) was added to a solution of N-(4-(4-(N-(benzyloxycarbonyl)allylamino)piperidin-1-yl)-2-(2-(trimethylsilyl)-ethoxymethyl)-2-phenylbutyl)-N-methylbenzenesulfonamide (34 mg, 0.048 mmol) in dichloromethane (1.5 mL). After stirring the solution 1 h at RT, the solvents were evaporated. The residue was dissolved in 20 mL of ethyl acetate and washed with 10 mL of saturated aqueous sodium bicarbonate followed by 10 mL of brine. The organic layer was dried over sodium sulfate and evaporated. The residue was purified by flash column chromatography on silica gel, eluting with 2% methanol in dichloromethane, to give the free base corresponding to the title compound in quantitative yield. The enantiomers of the free base could be separated by preparative HPLC on a Chiracel OD column, eluting with 40% isopropanol in hexane. 1H NMR (400 MHz, CD3OD): δ 7.77 (d, 2H, J=7 Hz), 7.65 (t, 1H, J=7 Hz), 7.58 (t, 2H, J=7 Hz), 7.41-7.27 (m, 9H), 7.23 (t, 1H, J=7 Hz), 5.81 (ddt, 1H, J=17, 10, 5 Hz), 5.19-5.04 (m, 4H), 4.02 (d, 1H, J=11 Hz), 3.97-3.82 (m, 4H), 3.36 (d, 1H, J=14 Hz), 3.16-3.08 (m, 2H), 2.85 (db, 1H, J=11 Hz), 2.43-2.33 (m, 1H), 2.31-2.23 (m, 1H), 2.16-1.95 (m, 4H), 2.03 (s, 3H), 1.86-1.60 (m, 4H). Mass spectrum (ESI): m/z=606 (M+1, 100%).

reactant | Trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(4-(4-(N-(benzyloxycarbonyl)allylamino)piperidin-1-yl)-2-(2-(trimethylsilyl)-ethoxymethyl)-2-phenylbutyl)-N-methylbenzenesulfonamide | 0.048 mmol, 34 mg | C(C1=CC=CC=C1)OC(=O)C=CCNC1CCN(CC1)CCC(CN(S(=O)(=O)C1=CC=CC=C1)C)(C1=CC=CC=C1)COCC[Si](C)(C)C | C39H55N3O5SSi
reactant | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-(4-(4-(N-(Benzyloxycarbonyl)allylamino)piperidin-1-yl)-2-(hydroxymethyl)-2-phenylbutyl)-N-methylbenzene-sulfonamide hydrochloride | quantitative yield | Cl.C(C1=CC=CC=C1)OC(=O)C=CCNC1CCN(CC1)CCC(CN(S(=O)(=O)C1=CC=CC=C1)C)(C1=CC=CC=C1)CO | InChI=1S/C34H43N3O5S.ClH/c1-36(43(40,41)32-16-9-4-10-17-32)27-34(28-38,30-14-7-3-8-15-30)21-25-37-23-19-31(20-24-37)35-22-11-18-33(39)42-26-29-12-5-2-6-13-29;/h2-18,31,35,38H,19-28H2,1H3;1H
